US05807882
Stage D: Ethyl 6-acetoxy-1,4-benzodioxin-2-carboxylate
Under an inert atmosphere, 6 g of ethyl 6-acetoxy-2,3-dibromo- 1,4-benzodioxane-2-carboxylate in solution in 100 ml of acetone are mixed with 7.75 g of potassium iodide and stirred for 6 hours. After evaporation of the acetone under reduced pressure, the residue is diluted in ether and then washed with 20% sodium thiosulfate solution until the mixture is decolorized. The organic phase is then dried over magnesium sulfate and thereafter concentrated under vacuum. The compound is purified by chromatography on silica gel (eluent: petroleum ether/ethyl acetate, 7:3).

reactant | ethyl 6-acetoxy-2,3-dibromo- 1,4-benzodioxane-2-carboxylate | 6 g | C(C)(=O)OC1=CC2=C(OC(C(O2)Br)(C(=O)OCC)Br)C=C1 | C13H12Br2O6
reactant | potassium iodide | 7.75 g | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | Ethyl 6-acetoxy-1,4-benzodioxin-2-carboxylate | C(C)(=O)OC1=CC2=C(OC(=CO2)C(=O)OCC)C=C1 | C13H12O6
